US08614215B2
In particular, 2-(2-amino-4-methoxyphenyl)ethanol may be prepared from 1-chloro-4-methoxy-2-nitrobenzene using conventional procedures, known by one skilled in the art and described in the literature (Bioorg. Med. Chem, 2004). Similarly, 2-(2-amino-4-methoxyphenyl)propane-1,3-diol may be prepared by hydrogenation of 2-(4-methoxy-2-nitrophenyl)propane-1,3-diol obtained by reduction of diethyl (4-methoxy-2-nitrophenyl)malonate. Also, 5-methoxy-2-(2-methoxyethyl)aniline may be prepared by reduction of the product resulting from the methylation of 2-(4-methoxy-2-nitrophenyl)ethanol. 5-Methoxy-2-[2-(methylsulfonyl)ethyl]aniline may be prepared by hydrogenation of the product resulting from the oxidation of 4-methoxy-1-[2-(methylthio)ethyl]-2-nitrobenzene. The latter may be prepared by reaction between sodium thiomethoxide and the intermediate obtained by bromo-de-hydroxylation of 2-(4-methoxy-2-nitrophenyl)ethanol as described in the scheme below.

reactant | 2-(2-amino-4-methoxyphenyl)ethanol | NC1=C(C=CC(=C1)OC)CCO | C9H13NO2
reactant | 1-chloro-4-methoxy-2-nitrobenzene | ClC1=C(C=C(C=C1)OC)[N+](=O)[O-] | C7H6ClNO3
reactant | 2-(2-amino-4-methoxyphenyl)propane-1,3-diol | NC1=C(C=CC(=C1)OC)C(CO)CO | C10H15NO3
reactant | 2-(4-methoxy-2-nitrophenyl)propane-1,3-diol | COC1=CC(=C(C=C1)C(CO)CO)[N+](=O)[O-] | C10H13NO5
product | diethyl (4-methoxy-2-nitrophenyl)malonate | COC1=CC(=C(C=C1)C(C(=O)OCC)C(=O)OCC)[N+](=O)[O-] | C14H17NO7
